data/mechanisms/records/IMS8-EQ8.70b.json
{"mechanism_id": "IMS8-EQ8.70b", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[CH2:4][CH2:5][CH2:6][CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_h_intermediate", "mapped_smiles": "[CH3:3][C:1](=[OH+:2])[CH2:4][CH2:5][CH:6][CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alkene_radical_cation", "mapped_smiles": "[CH2+:5][CH:6][CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "enol_neutral", "mapped_smiles": "[CH2:4]=[C:1]([CH3:3])[OH:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_h_intermediate"]}, {"state_id": "state_products", "species_ids": ["alkene_radical_cation", "enol_neutral"]}], "steps": [{"step_id": "step_gamma_h_rearrangement", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_beta_cleavage_charge_migration", "from_state": "state_distonic", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_8_70b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 191, "equation": "8.70", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.9, "curator_note": "Same first step as IMS8-EQ8.70a: the two branches of Equation 8.70 share the drawn distonic intermediate. Book draws 2 arc(s), both single-barbed fishhooks converging on the forming Y...H bond: move <a> from the odd electron printed on the n-ionized heteroatom Y towards the gamma-H, move <b> from the gamma C-H bond into that same forming Y-H bond; the third hook (the other C-H electron onto the gamma carbon) is an implicit homolysis hook required for electron balance (not drawn on the page). ENCODING NOTE: the migrating H cannot be atom-mapped (RDKit folds a mapped explicit H into implicit valence), so the single encoded move records the net heavy-atom consequence of all three hooks -- the odd electron moving from Y(2) to the gamma carbon C(6). INSTANTIATION: Y = O, R = R' = CH3, i.e. hexan-2-one, the book's own compound for this scheme (Equations 8.74 and the p.192-193 text)."}, {"evidence_id": "ev_step_migration_8_70b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage_charge_migration", "support_type": "textbook_proposed", "locator": {"page": 191, "equation": "8.70", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (charge migration branch)"}, "confidence": 0.8, "curator_note": "Lower branch of Equation 8.70, labelled 'charge migration'. Book draws 0 arc(s) for this step (only the labelled straight reaction arrow), so both encoded moves are curator-supplied and neither is drawn on the page. They produce exactly the two drawn products: the neutral enol CH2=C(R')-YH (move <2>: the C(1)=Y pi pair drops onto Y as a lone pair, discharging it) and the alkene radical cation R-CH=CH2(+.) (move <1>: the C(4)-C(5) sigma pair shifts to make the new C(1)=C(4) pi bond of the enol, leaving C(5) as a cation while the odd electron stays on C(6) where the first step put it). p.192-193: 'charge migration to form the counterpart Y'CH=CH2+. ion can occur in competition, with abundances governed by Stevenson's Rule'. DELOCALIZATION (convention C): the page draws this ion as an intact alkene with a delocalised '+.' printed beside it; a pi radical cation with both charge and odd electron symbols on an intact C=C has no valid localized RDKit SMILES, so ONE localized resonance form is encoded throughout -- (+)CH2-CH(.)-CH3, charge on C(5), odd electron retained on C(6). The partner localization (.)CH2-CH(+)-CH3 would need an extra, undrawn formal 1,2-radical shift. NO PRINTED NUMBERS: generic scheme, no m/z and no abundance on the page; detected=false, peak status 'inferred', no relative_intensity. m/z 42.0464 is the curator's computed value for the hexan-2-one instantiation (propene radical cation), not a book datum."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_alkene_oe_ion", "species_id": "alkene_radical_cation", "step_id": "step_beta_cleavage_charge_migration", "observed_mz": 42.0464, "hydrogen_shift": -1, "isotope_offset": 0, "status": "inferred", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
